US07268128B2
5-Amino-3-cyclohexyl-1-methyl-1H-pyrazole-4-carbonitrile
In a stream of nitrogen, 20.8 g (abt. 60% oil suspension 520 mmol) of sodium hydride was slowly added at 0° C. to a 260 ml tetrahydrofuran solution of 17.2 g (260 mmol) of malononitrile. Then, 35 ml (260 mmol) of cyclohexanecarbonyl chloride was added dropwise at the same temperature. After the dropwise addition, the reactant mixture was brought to room temperature, and stirred for 1.5 hours. Then, 30 ml (312 mmol) of dimethylsulfuric acid was added to the reaction mixture, and the mixture was heated under reflux for 3 hours. Then, 17.4 ml (125 mmol) of triethylamine and 13.8 ml (260 mmol) of methylhydrazine were added with ice cooling, and the mixture was heated under reflux for 1 hour. The reaction mixture was brought to room temperature, and distilled under reduced pressure. Then, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, and dried over sodium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=30/1˜20/1) to obtain crude crystals. The crude crystals were further purified by recrystallization (hexane-ethyl acetate) to obtain 20.7 g (39%) of the captioned compound. Also, the mother liquor was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain 11.3 g (21%) of the captioned compound.

reactant | sodium hydride | 520 mmol, 20.8 g | [H-].[Na+]
reactant | malononitrile | 260 mmol, 17.2 g | C(CC#N)#N | C3H2N2
reactant | cyclohexanecarbonyl chloride | 260 mmol, 35 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | dimethylsulfuric acid | 312 mmol, 30 ml | COS(OC)(=O)=O | C2H6O4S
reactant | triethylamine | 125 mmol, 17.4 ml | C(C)N(CC)CC | C6H15N
reactant | methylhydrazine | 260 mmol, 13.8 ml | CNN | CH6N2
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | 5-Amino-3-cyclohexyl-1-methyl-1H-pyrazole-4-carbonitrile | 20.7 g, 39% | NC1=C(C(=NN1C)C1CCCCC1)C#N | C11H16N4
